US05859014
substituting 1-chloro-2,2-dimethyl-3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propane and 1-benzyl-5-methyl-2,4(1H,3H)-pyrimidinedione gave 1-benzyl-3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}-2,2-dimethylpropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione.

reactant | 1-chloro-2,2-dimethyl-3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propane | ClCC(CN1CCN(CC1)C1=C(C=CC=C1)OCC(F)(F)F)(C)C | C17H24ClF3N2O
reactant | 1-benzyl-5-methyl-2,4(1H,3H)-pyrimidinedione | C(C1=CC=CC=C1)N1C(NC(C(=C1)C)=O)=O | C12H12N2O2
product | 1-benzyl-3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}-2,2-dimethylpropyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | C(C1=CC=CC=C1)N1C(N(C(C(=C1)C)=O)CC(CN1CCN(CC1)C1=C(C=CC=C1)OCC(F)(F)F)(C)C)=O | C29H35F3N4O3
